US04616015
A mixture of 6-(4-aminophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one (2 g), 2-methoxyethyl-p-toluenesulfonate (3.8 g), potassium iodide (0.5 g) and potassium carbonate (1.3 g) in DMF (18 ml) was heated at 80° C. for 16 hours and evaporated in vacuo. The residue was extracted with ethyl acetate after an addition of water and the extract was washed with water, dried over magnesium sulfate, and evaporated in vacuo. The oily residue was triturated with ethyl acetate, collected by filtration, and recrystallized from aqueous ethanol to give 6-[4-(2-methoxyethylamino)phenyl]-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one (0.41 g).

reactant | 6-(4-aminophenyl)-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one | 2 g | NC1=CC=C(C=C1)C=1C(NC(NN1)=O)C | C10H12N4O
reactant | 2-methoxyethyl-p-toluenesulfonate | 3.8 g | COCCOS(=O)(=O)C1=CC=C(C=C1)C | C10H14O4S
reactant | potassium iodide | 0.5 g | [I-].[K+]
reactant | potassium carbonate | 1.3 g | C([O-])([O-])=O.[K+].[K+]
solvent | DMF | 18 ml | CN(C)C=O | C3H7NO
product | 6-[4-(2-methoxyethylamino)phenyl]-5-methyl-4,5-dihydro-1,2,4-triazin-3(2H)-one | 0.41 g | COCCNC1=CC=C(C=C1)C=1C(NC(NN1)=O)C | C13H18N4O2
